US05942538
Preparation of 2-fluoro-6-trifluoromethylbenzamidoxime
In 540 ml of methanol was dissolved 58.8 g of hydroxylamine hydrochloride and to the solution was added 160 ml of aqueous solution of sodium carbonate containing 49.4 g thereof. 40 g of 2-fluoro-6-trifluoromethylbenzonitrile was added thereto at room temperature with stirring, and then further stirred 3 hours at 60° C. After removing the solvent methanol by distillation from the solution, the solution was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and it was concentrated under reduced pressure, thereby obtaining crude crystals. The crystals were then added with 200 ml of 3N aqueous solution of hydrochloric acid and thoroughly stirred, then the insoluble substance resulted in the solution was removed by filtration. The filtrate was then neutralized with 10% aqueous solution of sodium hydroxide under cooling and then extracted again with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and the solution was concentrated under reduced pressure to obtain 26.6 g of the objective compound. m.p. 155-157° C.

reactant | hydroxylamine hydrochloride | 58.8 g | Cl.NO
reactant | sodium carbonate | 49.4 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-fluoro-6-trifluoromethylbenzonitrile | 40 g | FC1=C(C#N)C(=CC=C1)C(F)(F)F | C8H3F4N
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 540 ml | CO | CH4O
product | 2-fluoro-6-trifluoromethylbenzamidoxime | 26.6 g | FC1=C(C(N)=NO)C(=CC=C1)C(F)(F)F | C8H6F4N2O
